US07858640B2
Trifluoromethanesulfonic Acid 8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yl Ester
A mixture of 8-chloro-5-hydroxy-3-(4-methanesulfonylbenzyl)-4-methyl-1H-quinolin-2-one (0.67 g), N-phenyltrifluoromethanesulfonimide (0.63 g), potassium carbonate (0.49 g) and tetrahydrofuran (10 mL) was heated by microwave irradiation at 130° C. for 20 minutes. The mixture was filtered and the filtrate concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (1:0 to 2:1 by volume) gave title compound as an off-white solid, 0.64 g.

reactant | 8-chloro-5-hydroxy-3-(4-methanesulfonylbenzyl)-4-methyl-1H-quinolin-2-one | 0.67 g | ClC=1C=CC(=C2C(=C(C(NC12)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C)O | C18H16ClNO4S
reactant | N-phenyltrifluoromethanesulfonimide | 0.63 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 0.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Trifluoromethanesulfonic Acid 8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yl Ester | ClC=1C=CC(=C2C(=C(C(NC12)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C)OS(=O)(=O)C(F)(F)F | C19H15ClF3NO6S2
